US04970023
Next, 2.02 g (11.4 mmol) of the above (+)-2-methyl octanoyl chloride and 3 ml of nitrobenzene were cooled to 0° C. in a flask and added with 3.06 g (22.9 mmol) of anhydrous aluminum chloride with stirring, which were stirred at room temperature for 30 minutes. Thereafter, 2.89 g (7 mmol) of (+)-biphenyl-2-methyloctanoate biphenyl dissolved in 3 ml of nitrobenzene was added thereto, which was reacted by stirring at room temperature for 140 hours. After the completion of the reaction, 2 normal hydrochloric acid and ice were added and extracted with chloroform. The extract was washed with water, dried on anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified through a column chromatography of silica gel to obtain 1.55 g (yield: 49%) of an oily (+)-4-(2-methyloctanoyl) biphenyl-2-methyloctanoate.

reactant | (+)-2-methyl octanoyl chloride | 11.4 mmol, 2.02 g | CC(C(=O)Cl)CCCCCC | C9H17ClO
reactant | aluminum chloride | 22.9 mmol, 3.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (+)-biphenyl 2-methyloctanoate biphenyl | 7 mmol, 2.89 g | C1(=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)C1=CC=CC=C1.CC(C(=O)O)CCCCCC
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (+)-4-(2-methyloctanoyl) biphenyl 2-methyloctanoate | 1.55 g, yield: 49% | CC(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCCC.CC(C(=O)[O-])CCCCCC | InChI=1S/C21H26O.C9H18O2/c1-3-4-5-7-10-17(2)21(22)20-15-13-19(14-16-20)18-11-8-6-9-12-18;1-3-4-5-6-7-8(2)9(10)11/h6,8-9,11-17H,3-5,7,10H2,1-2H3;8H,3-7H2,1-2H3,(H,10,11)/p-1
